US09061080B2
(a) Synthesis of Tetratosyl-N,N′-bis(2-hydroxyethyl)ethylene diamine
N,N′-bis(2-hydroxyethyl)-ethylenediamine (Aldrich, 14.8 g, 100 mmol) and pyridine (Fluka, 200 mL) was stirred at 0° C. under nitrogen while a solution of toluene-4-sulfonyl chloride (Fluka, 77 g, 400 mmol) dissolved in pyridine (Fluka, 100 mL) was dropped into the solution over a period of 75 minutes. The temperature was slowly raised to room temperature and continued stiffed for 4 hours. Solution was poured into a mixture of ice (250 mL) and hydrochloric acid (concentrated, 250 mL) while stirring to afford a dark sticky oil. Solvents were removed by decantation, product crude washed with water, decanted and re-dissolved in methanol (250 mL). The resulting slurry was isolated by filtration and the crude product was re-dissolved in hot methanol (60° C., 600 mL) and cooled down. Solid product was filtered off and dried in vacuo. Yield 36.36 g (47.5%). Product was verified by NMR.

reactant | N,N′-bis(2-hydroxyethyl)-ethylenediamine | 100 mmol, 14.8 g | OCCNCCNCCO | C6H16N2O2
reactant | toluene-4-sulfonyl chloride | 400 mmol, 77 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | hydrochloric acid | 250 mL | Cl | ClH
solvent | pyridine | 100 mL | N1=CC=CC=C1 | C5H5N
solvent | methanol | 600 mL | CO | CH4O
solvent | pyridine | 200 mL | N1=CC=CC=C1 | C5H5N
product | Tetratosyl-N,N′-bis(2-hydroxyethyl)ethylene diamine | S(=O)(=O)(C1=CC=C(C)C=C1)C(C(NCCO)(S(=O)(=O)C1=CC=C(C)C=C1)S(=O)(=O)C1=CC=C(C)C=C1)(NCCO)S(=O)(=O)C1=CC=C(C)C=C1 | C34H40N2O10S4
